US04673684
In an argon atmosphere, 3.00 g (13.4 mmol) of 3,5-dimethoxy-4-hydroxycinnamic acid was suspended in a sulfuric acid - ethanol (1 : 115, 50 ml) solution. The suspension was refluxed for 5.5 hours. Water was added to the reaction solution, and the mixture was extracted with methylene chloride. The organic layer was washed with an aqueous solution of sodium hydrogen carbonate and concentrated under reduced pressure to give 3.34 g (13.24 mmol) of ethyl 3,5-dimethoxy-4-hydroxycinnamate.

reactant | 3,5-dimethoxy-4-hydroxycinnamic acid | 13.4 mmol, 3.00 g | COC=1C=C(C=CC(=O)O)C=C(C1O)OC | C11H12O5
reactant | sulfuric acid ethanol | 50 ml | S(O)(O)(=O)=O.C(C)O
solvent | Water | O | H2O
product | ethyl 3,5-dimethoxy-4-hydroxycinnamate | 13.24 mmol, 3.34 g | COC=1C=C(C=CC(=O)OCC)C=C(C1O)OC | C13H16O5
